US04370480
2-Formyl-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
To a solution of 6.26 mmol of sodium ethoxide in 10 ml of absolute ethanol under an argon atmosphere was added 0.80 ml of 2-nitropropane. Next 0.74 g (2.09 mmol) of 2-chloromethyl-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide was added and the solution was heated to reflux. The mixture became pasty shortly after heating was begun and an additional 3 ml of ethanol was added to facilitate stirring. After heating for 4 hours, the solvent was removed under reduced pressure and the residue was dissolved in 12 ml of water. The crude product was precipitated by neutralizaiton of the solution with 3 N hydrochloric acid. The crude product was purified by preparative thin layer chromatography on silica gel and subsequent recrystallization from acetone to provide the title compound, m.p. 157° C. (decomp.). The infrared spectrum showed a new carbonyl band at 1675 cm-1, indicative of the formation of an aldehyde, in addition to the urea carbonyl band at 1710 cm-1. The nuclear magnetic resonance spectrum showed peaks at 10.57 ppm and 10.67 ppm which are consistent with an aromatic aldehyde with restricted rotation.

reactant | sodium ethoxide | 6.26 mmol | [O-]CC.[Na+]
reactant | 2-nitropropane | 0.80 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-chloromethyl-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | 2.09 mmol, 0.74 g | ClCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C14H15ClN4O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-Formyl-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | C(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C14H14N4O4S
